US07037925B2
4-(3-Hydroxy-2-methylanilino)-6,7-dimethoxy-3-quinolinecarboxamide
A mixture of 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide (0.046 g, 0.17 mmol), 3-amino-2-methylphenol (0.032 g, 0.26 mmol) and acetic acid (40 μl) in DMF (0.8 ml) was heated at 100° C. for 1.5 h. After cooling, the mixture was diluted with water (15 ml) and made alkaline with saturated NaHCO3. The title compound, which slowly precipitated was filtered off and dried to give 34 mg (55%).

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarboxamide | 0.17 mmol, 0.046 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C(=O)N | C12H11ClN2O3
reactant | 3-amino-2-methylphenol | 0.26 mmol, 0.032 g | NC=1C(=C(C=CC1)O)C | C7H9NO
reactant | acetic acid | 40 μl | C(C)(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 0.8 ml | CN(C)C=O | C3H7NO
solvent | water | 15 ml | O | H2O
product | 4-(3-Hydroxy-2-methylanilino)-6,7-dimethoxy-3-quinolinecarboxamide | OC=1C(=C(NC2=C(C=NC3=CC(=C(C=C23)OC)OC)C(=O)N)C=CC1)C | C19H19N3O4
